US07811637B2
Reference Example 1 [Synthesis of 3-(3-methoxy-4-hydroxyphenyl)propyl triethoxysilane]
Into a four-neck flask provided with a stirrer, a reflux condenser, a dropping funnel and a thermometer were added 164 g (1.0 mole) of 3-(3-methoxy-4-hydroxyphenyl)propene and 100 ppm in terms of platinum metal of a 2 mass % isopropanol solution of chloroplatinic acid. Then 164 g (1.0 mole) of triethoxysilane was dripped over the course of five hours from a dropping funnel and was reacted while the mixture was heated and stirred at a temperature in the range from 50 to 60° C. After the reaction was completed, vacuum distillation was performed and 289 g (0.88 mole) of the desired product (3-(3-methoxy-4-hydroxyphenyl)propyl triethoxysilane) were obtained. The yield was 88%.

reactant | 3-(3-methoxy-4-hydroxyphenyl)propene | 1.0 mole, 164 g | COC=1C=C(C=CC1O)CC=C | C10H12O2
reactant | triethoxysilane | 1.0 mole, 164 g | C(C)O[SiH](OCC)OCC | C6H16O3Si
catalyst | platinum | [Pt] | Pt
catalyst | chloroplatinic acid | [H+].[H+].Cl[Pt-2](Cl)(Cl)(Cl)(Cl)Cl
solvent | isopropanol | C(C)(C)O | C3H8O
product | 3-(3-methoxy-4-hydroxyphenyl)propyl triethoxysilane | 0.88 mole, 289 g, yield was 88% | COC=1C=C(C=CC1O)CCC[Si](OCC)(OCC)OCC | C16H28O5Si
